Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
acute onset of nausea/vomiting, left facial numbness, left
facial droop, dysarthria and dysphagia
 
Major Surgical or Invasive Procedure:
n/a

 
History of Present Illness:
The patient is a ___ ___ woman with a
history of lupus, migraines and depression and presents to the 
ED
after acute onset of nausea/vomiting, left facial numbness, left
facial droop, dysarthria and difficulty swallowing in the 
setting
of a week of headaches.  Neurology was consulted in the ED as
part of a code stroke protocol.  

Ms. ___ has had a severe, pulsatile, ___ headache with
photophobia for the past week that has been refractory to
fioricet.  The headache was quite atypical in its severity,
character, duration, and refactory nature. A few days after the
start of the headache, she had ___ days of posterior neck pain
and stiffness.  She described limited range of motion of the 
neck
and her boyfriend thought her neck looked swollen and there were
"knots" in her neck.  This improved with massage and topical
cream and there has been no neck pain or stiffness in the past 2
days.  This morning, the headache progressed to ___ pulsatile
left ___ headache.  She began to feel nauseated 
at
10am, but when her boyfriend left for work at 11am, she was
speaking normally and had no facial droop, weakness, or sensory
deficit.  She called her boyfriend at 1pm, after she had acute
onset of nausea,vomiting, dizziness described as room spinning,
choking sensation, left facial numbness, and difficulty moving
the left corner of her mouth.  Her speech was slurred because of
the facial weakness.  She did not have difficulty understanding
language and her boyfriend thought her language was slurred, but
otherwise made sense.  There was no double vision, walking and
strenght were normal.  

She came to ___ ED where initial vitals were stable (see exam)
and FSG 86.  Code stroke was called at 13:54.  On my arrival,
intial NIHSS was 3 for facial palsy, sensation, dysarthria. 
___ did not show hemorrhage, mass or early evidence of
ischemia.  CTA ___ and neck and CTV showed patent vessels. 
Given her low NIHSS, nondisabling deficit, and absent occlusion
on angiography, it was felt that tpa was a greater risk than
benefit and was not given.

ED course complicated by a trigger at 1515 for several
___ episodes of bradycardia to 39.  Unclear if these
were in the setting of nausea.  She did not have chest pain or
shortness of breath during the bradycardia, but had the 
lingering
nausea.  Nausea and dizziness resolved within 60 minutes. 

Of note, Ms. ___ is followed by Dr. ___ 
neurologist,
for migraines and ___ of possible CNS lupus.  With regards 
to
her migraines, she has migraines for over ___ years and now they
occur a few times per week.  Headaches are pulsatile, typically
start unilaterally and progress to the entire ___.  She has
photophobia, rare phonophobia, nausea, dizziness.  The headache
usually resolves with one fioricet and she does not miss time
from work.  She does not have visual or other auras with her
migraines.  In the past she has been on amitriptyline which was
only briefly helpful.  Her current headache is much more
prolonged and severe than her typical migraines.  

With regards to ___ of possible CNS lupus, the patient
discussed memory problems with Dr. ___ in ___.  She
will find herself grocery shopping and completely forget what 
she
is doing.  She make lists but this is still not helpful.  An MRI
was done in ___ which did was reassuring for absence of stroke
or vasculitis.  

ROS: As listed above.   Also with + productive cough today. +
palpitations. + intermittent joint aches.
Pertinent negatives include no acute worsening of
memory/confusion. Denies difficulty with producing or
comprehending speech. Denies loss of vision, blurred vision,
diplopia, tinnitus, hearing difficulty, dysarthria. Denies focal
muscle weakness, numbness, parasthesia. Denies loss of 
sensation.
Denies bowel or bladder incontinence or retention. Denies
difficulty with gait. No fevers, rigors, night sweats, or
noticeable weight loss. Denies chest pain, dyspnea. Denies
nausea, vomiting, diarrhea, constipation, or abdominal pain.  No
recent change in bowel or bladder habits.  Denies dysuria or
hematuria. Denies myalgias or rash.

 
Past Medical History:
- SLE - diagnosed in ___, postive dsDNA, positive SM, postivive
RNP antibodies.
- ? Raynauds 
- 2 miscarriages, one was at 27 weeks because of placental clots
in ___
- Depression
- Fibroid uterus, s/p myomectomy 
- childhood asthma
- prior chlamydia treated at 18wks of pregnancy

-RA myomectomy and evacuation of endometrioma, ___
-Wisdom teeth extraction

 
Social History:
___
Family History:
Her mother had ___ and HIV and passed with
lymphoma.  Her father also had HIV.  Her children are healthy. 

 
Physical Exam:
=============================
ADMISSION PHYSICAL EXAM
=============================
Vitals:  BP 128/86 HR 66 RR 14 POX 96%
General:  ill appearing, frequently coughing up sputum, mild
distress.  
HEENT: NCAT,  no oropharyngeal lesions, neck supple, negative
Brudzinski and kernig.
___: Borderline bradycardic, no murmur, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: cool feet, but otherwise warm, no edema

Neurologic Examination:
- Mental Status - Awake, alert, oriented to person, DOB, place,
___ (says ___ instead of ___. Attention to
examiner easily maintained. Recalls a coherent history. Able to
recite months of year backwards. Speech is fluent, but moderatly
dysarthric, with full sentences, intact repetition, and intact
verbal comprehension. Naming intact.  No paraphasias.  Normal
prosody. Verbal registration and recall ___, but recalls ___ 
with
cuing. No apraxia. No evidence of hemineglect. No ___
confusion. 
- Cranial Nerves - PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. Left hemiface with decrease sensation to
light touch and preserved sensation to pinprick.  Right
hemifacial sensation normal.  Left lower facial droop at rest 
and
attenuated activation.  No weakness of eye closure or forehead
wrinkling.  Emotional smile is symmetric.  Hearing intact to
finger rub bilaterally.  Palate elevation difficult to assess
given frequent coughing, but appeared symmetric. SCM/Trapezius
strength ___ bilaterally. Tongue midline and strong.
- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   ___  5   5    5  5     5     5
- Sensory - Left hemiface with decreased sensation to light 
touch
and relatively preserved to pinprick.  Otherwise no additional
deficits to light touch, pin bilaterally.  Proprioception intact
at great toes.  No extinction to DSS. 
-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    3   2
R  2  2    2    3   2
Plantar response mute bilaterally. No clonus.  No crossed
adductors. 
- Coordination - No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements. ___ is smooth.
- Gait - deferred

=============================
DISCHARGE PHYSICAL EXAM
=============================
Notable for resolution of Left lower facial droop and numbness.  
Very mild dysrhythmia on left hand finger tapping and minor 
atixa on ___ finger.  Otherwise neurologically 
___.
 
Pertinent Results:
=============================
ADMISSION LABS
=============================

___ 02:00PM BLOOD ___ 
___ Plt ___
___ 02:00PM BLOOD ___ 
___
___ 02:00PM BLOOD Plt ___
___ 02:00PM BLOOD ___ ___
___ 02:00PM BLOOD ___
___ 07:48PM BLOOD ___
___ 02:00PM BLOOD ___
___ 02:00PM BLOOD ___ 
___
___ 07:48PM BLOOD CK(CPK)-14*
___ 02:00PM BLOOD ___ CK(CPK)-18* ___ 
___
___ 07:48PM BLOOD ___ cTropnT-<0.01
___ 02:00PM BLOOD ___ cTropnT-<0.01
___ 07:48PM BLOOD ___
___ 02:00PM BLOOD ___
___ 07:48PM BLOOD ___
___ 07:48PM BLOOD ___
___ 07:48PM BLOOD ___
___ 02:00PM BLOOD ___ 
___
___ 02:16PM BLOOD ___ 
___

=============================
DISCHARGE LABS
=============================

=============================
IMAGING 
=============================

___ Thyroid U/S
IMPRESSION:  
Two discrete vascular nodules within lower left thyroid lobe, 
largest within the lateral aspect of left thyroid measuring 2.1 
cm. Recommend biopsy of lateral most left thyroid nodule.

___ MR ___ w/o contrast
IMPRESSION:  
1. Small subacute infarcts in the left cerebellar hemisphere and 
left fornix. Additional focus of slow diffusion in the left 
frontal lobe without corresponding FLAIR signal abnormality may 
represent a more acute region of infarction. 
2.  Several small foci of T2/FLAIR signal hyperintensity in the 
subcortical and periventricular white matter of the right 
frontal lobe which are nonspecific but may be seen in the 
setting of vasculitis, demyelinating disease, small vessel 
ischemic disease, migraine headache, and Lyme amongst other 
entities. 

___ Echo
IMPRESSION: Likely patent foramen ovale/small atrial septal 
defect. Normal biventricular cavity sizes with preserved 
regional and global biventricular systolic function. No valvular 
pathology or pathologic flow identified.

___ CXR
IMPRESSION:  No acute cardiopulmonary process. 

___ CTA ___ and Neck
IMPRESSION: 
1. Unremarkable ___ and neck CTA without evidence of aneurysm, 
stenosis, or occlusion. 
2. No evidence of venous sinus thrombosis on ___ CTV  
3. Heterogeneous 11 mm nodule in the left lobe of the thyroid. 
Please refer to subsequently performed thyroid ultrasound for 
further information.  
4. Multiple enlarged left greater than right axillary lymph 
nodes which is a nonspecific finding. Clinical correlation is 
recommended. 
5. Partially visualized peripheral opacity in the left lung 
apex. Clinical correlation is recommended. 

___ CT ___ w/o contrast
FINDINGS:  
There is no acute intracranial hemorrhage or midline shift. 
There is no 
hydrocephalus. ___ differentiation is maintained. 
Visualized paranasal sinuses and mastoid air cells are 
clear.Bone images unremarkable. 
IMPRESSION:  
No acute abnormalities are seen. 
  

 
Brief Hospital Course:
Ms. ___ is a ___ ___ woman with a 
history of lupus, migraines and depression and presents to the 
ED after acute onset of nausea/vomiting, left facial numbness, 
left facial droop, dysarthria and difficulty swallowing in the 
setting of a week of severe headache.  Found to have small L 
cerebellar stroke concerning for embolic event in the setting of 
likely lupus anticoagulant.

# Cerebellar Stroke/Lupus Anticoagulant Syndrome:
- Patient was treated as a code stroke in the ED with NIHSS of 3 
for facial palsy, dysarthria and sensation (left face).  NCHCT 
was benign, no vascular cut off on vessel imaging.  Given 
___ deficit, tPA was deferred.  Admission labwork was 
otherwise benign and she was admitted to the Stroke Neurology 
Service.  Fortunately, by the next morning, her symptoms, except 
for mild vertigo had entirely resolved.  She underwent MRI of 
the brain, which as previous noted, found small subacute 
infarcts in the left cerebellar hemisphere and possible the left 
fornix.  

She was initially continued on Aspirin 81mg.  Of note, did 
report poor outpatient compliance, taking it approximately 3x/wk 
and having recently run out due to financial difficulties.  
However, she reported otherwise tolerating the medication well.

Further evaluation with Echo confirmed presence of PFO.  Lower 
Extremity venous duplex were negative.  Of note, she has a prior 
questionable history of Lupus Anticoagulant syndrome for which 
she took the aspirin.  Her positive Lupus Anticoagulant status 
was reconfirmed and diagnosis reaffirmed this admission.  
Hypercoagulable workup including anticardiolipin, B2 
microglobulin and protein C and S function were sent this 
admission, but pending on discharge.  

Hematology was consulted for antiplatelet vs anticoagulant 
management of her Lupus anticoagulant syndrome and recommended 
Coumadin, which was subsequently initiated with Lovenox Bridge.

# Thyroid Nodule
- Tyroid nodules seen incidentially on Neck CTA.  TSH was within 
normal limited and Free T4 ordered but pending. Subsequent 
Thyroid U/S found a left thyroid nodule measuring 2.1cm, for 
which radiology recommended biopsy.  This was deferred to an 
outpatient basis

# Headache
- Controlled symptomatic with ___ and 
ultram.

# Sinus Bradycardia
- Patient intermittently had asymptomatic sinus bradycardia to 
the low ___ on telemetry.  She was asymptomatic.  EKG and 
cardiac enzymes were otherwise benign.

===============================
TRANSITIONAL ISSUES
===============================

- Left thyroid nodule 2.1 cm.  Radiology recommends outpatient 
biopsy.  Defer to patient's primary care physician. 
- Lovenox Bridge to Coumadin (INR Goal ___

=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
================================================================

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (X) Yes  – () No  
2. DVT Prophylaxis administered by the end of hospital day 2? 
(X) Yes - ()No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(X) Yes - () No  
4. LDL documented (required for all patients)? (X) Yes (LDL = 
80) - () No  
5. Intensive statin therapy administered? () Yes - (X) No [if 
LDL >= 100, reason not given: ____ ]  
6. Smoking cessation counseling given? (X) Yes - () No [
7. Stroke education given (written form in the discharge 
worksheet)? (X) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(X) Yes - () No [if no, reason not assessed: ____ ]  
9. Discharged on statin therapy? () Yes - (X) No [if LDL >= 100 
or on a statin prior to hospitalization, reason not discharged 
on statin: ____ ]  
10. Discharged on antithrombotic therapy? (X) Yes [Type: () 
Antiplatelet - () Anticoagulation] - () No  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydroxychloroquine Sulfate 200 mg PO DAILY 
2. PredniSONE 5 mg PO DAILY qAM 
3. Gabapentin 200 mg PO TID tingling 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. ___ TAB PO ONCE prn HA 
6. TraMADOL (Ultram) 50 mg PO TID:PRN pain 
7. Aspirin 81 mg PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. Codeine Sulfate 30 mg PO Q6H:PRN pain 

 
Discharge Medications:
1. Gabapentin 200 mg PO TID tingling 
2. Hydroxychloroquine Sulfate 200 mg PO DAILY 
3. PredniSONE 20 mg PO DAILY 
4. TraMADOL (Ultram) 50 mg PO TID:PRN pain 
5. Codeine Sulfate 30 mg PO Q6H:PRN pain 
6. Cyanocobalamin 1000 mcg PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. Outpatient Physical Therapy
ICD 9: 434.91
Provider: Dr. ___ ___

9. ___ TAB PO ONCE prn HA 
Duration: 1 Dose 
10. Warfarin 4 mg PO DAILY16 
RX *warfarin 2 mg 2 tablet(s) by mouth Daily Disp #*60 Tablet 
Refills:*3
11. Enoxaparin Sodium 60 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 60 mg/0.6 mL ___very twelve (12) hours 
Disp #*14 Syringe Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cerebellar Infarction- Likely Embolic ___ Lupus Anticoagulant 
Lupus Anticoagulant Syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
___ were hospitalized due to symptoms of dizziness, nausea, 
headache and left facial droop and numbness resulting from an 
ACUTE ISCHEMIC STROKE, a condition in which a blood vessel 
providing oxygen and nutrients to the brain is blocked by a 
clot. Damage to the brain from being deprived of its blood 
supply can result in a variety of symptoms.  
Stroke can have many different causes, so we assessed ___ for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
- Lupus and Lupus Anticoagulant Syndrome

We are changing your medications as follows:  
- Please continue your Lovenox until your INR is therapeutic 
(___) as directed by your doctor.  When your Coumadin (Warfarin) 
becomes therapeutic (INR ___, please stop your Lovenox as 
directed by your physician

- ___ were started on Coumadin 4mg to protect ___ from future 
stroke.  Your doctors ___ adjust your ___ (Warfarin) 
depending on your INR.

Please take your other medications as prescribed.  
Please followup with Neurology and your primary care physician 
as listed below.  
If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking to 
___  
- sudden weakness of one side of the body  
- sudden drooping of one side of the face  
- sudden loss of sensation of one side of the body  
- sudden difficulty pronouncing words (slurring of speech)  
- sudden blurring or doubling of vision  
- sudden onset of vertigo (sensation of your environment 
spinning around ___  
- sudden clumsiness of the arm and leg on one side or sudden 
tendency to fall to one side (left or right)  
- sudden severe headache accompanied by the inability to stay 
awake  

Additionally, and unrelated to your stroke, your doctors saw ___ 
___ thyroid nodule on CT scan which was confirmed with an 
ultrasound.  This nodule will require a biopsy on an outpatient 
basis and can be discussed with your primary care physician.

It was a pleasure providing ___ with care during this 
hospitalization.  
 
Followup Instructions:
___